US06967254B2
Step B: 4-(3,4-Dichloro-phenyl)-1-isopropyl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one
The solution of 4-(3,4-Dichloro-phenyl)-1-isopropyl-5-pyridin-4-yl-pyrazolidin-3-one 90 mg in dichloromethane 10 mL was treated with phenyltriethylammonium tribromide 0.1 g at room temperature, The reaction mixture was stirred at room temperature for 15 h. The reaction was quenched with sat. Na2SO3 25 mL at 0° C. The reaction mixture was extracted with dichloromethane, 3×50 mL. The combined organic phase was washed with brine, dried over anhydrous Na2SO4. After purification by flash chromatography, the title compound was obtained as light yellow solid 45 mg. MS (ES+): 348 (M+H)+.

reactant | 4-(3,4-Dichloro-phenyl)-1-isopropyl-5-pyridin-4-yl-pyrazolidin-3-one | 90 mg | ClC=1C=C(C=CC1Cl)C1C(NN(C1C1=CC=NC=C1)C(C)C)=O | C17H17Cl2N3O
reactant | phenyltriethylammonium tribromide | 0.1 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](CC)(CC)CC.C1(=CC=CC=C1)[N+](CC)(CC)CC.C1(=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(3,4-Dichloro-phenyl)-1-isopropyl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | ClC=1C=C(C=CC1Cl)C=1C(NN(C1C1=CC=NC=C1)C(C)C)=O | C17H15Cl2N3O
